US08404719B2
N-(2-fluorophenyl)-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide
To a mixture of 3-{[(2-fluorophenyl)amino]sulfonyl}benzoic acid (800 mg, 2.71 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (1133 mg, 2.98 mmol) in N,N-dimethylacetamide (6.5 mL) and 2-methyltetrahydrofuran (19.5 mL) was added (R)-octahydropyrrolo[1,2-α]pyrazine (479 mg, 3.79 mmol). The reaction was stirred at room temperature for 3 hours, diluted with 2-methyltetrahydrofuran (5 mL), and washed with saturated bicarbonate (2×25 mL). The combined aqueous layers were adjusted to pH 7 with buffer and re-extracted with 2-methyltetrahydrofuran (3×15 mL). The combined organic layers were concentrated under reduced pressure. The residue was taken up in ethanol (25 mL) and concentrated to give the title compound.

reactant | 3-{[(2-fluorophenyl)amino]sulfonyl}benzoic acid | 2.71 mmol, 800 mg | FC1=C(C=CC=C1)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H10FNO4S
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 2.98 mmol, 1133 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 3.79 mmol, 479 mg | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
solvent | N,N-dimethylacetamide | 6.5 mL | CN(C(C)=O)C | C4H9NO
solvent | 2-methyltetrahydrofuran | 19.5 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 5 mL | CC1OCCC1 | C5H10O
product | N-(2-fluorophenyl)-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide | FC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(=O)N1C[C@@H]2N(CC1)CCC2 | C20H22FN3O3S
